US04089960
To 10 ml of a 1 N methanolic sodium methoxide solution are added dropwise 3 ml of a 3.5 N methanolic methylmercaptan solution. To the resultant methylmercaptide solution is added a solution of 2.01 g (0.01 mole) of methyl 2-methoxy-6-chloronicotinate (cf. Example 6 a)) in 30 ml of methanol. The reaction mixture is refluxed for 5 hours and the solvent is thereafter evaporated in vacuo. The residue is treated with 30 ml of saturated potassium carbonate solution and 150 ml of methylene chloride and separated in a separating funnel. The methylene chloride solution is dried over sodium sulphate and subsequently evaporated to dryness in vacuo. The crystallised residue is recrystallised from pentane and yields the methyl 2-methoxy-6-(methylthio)-nicotinate with a melting point of 71°-75° C.

reactant | sodium methoxide | 1 N | C[O-].[Na+]
reactant | methylmercaptan | 3.5 N | CS | CH4S
reactant | methyl 2-methoxy-6-chloronicotinate | 0.01 mole, 2.01 g | COC1=C(C(=O)OC)C=CC(=N1)Cl | C8H8ClNO3
solvent | methanol | 30 ml | CO | CH4O
product | methyl 2-methoxy-6-(methylthio)-nicotinate | COC1=C(C(=O)OC)C=CC(=N1)SC | C9H11NO3S
